US05216172
To a solution of 54.8 g (0.33 mol) 3,4-dimethoxybenzaldehyde and 34.8 mg (0.3 mol) methyl acetoacetate in 20 ml benzene, were added dropwise 1.02 g (12 mmol) piperidine and 3.66 g (61 mmol) acetic acid in that order, and water was removed from the mixture by heating in a Dean-Stark apparatus until water was no longer distilled off. The solvents were distilled off from the reaction mixture, and the oil thus left was allowed to stand for five days. The crystals which separated out were collected by filtration, giving 41.1 g (52%) of methyl 2-(3,4-dimethoxy-benzylidene)acetoacetate as yellow crystals. M.P.: 93°-95° C.

reactant | 3,4-dimethoxybenzaldehyde | 0.33 mol, 54.8 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | methyl acetoacetate | 0.3 mol, 34.8 mg | C(CC(=O)C)(=O)OC | C5H8O3
reactant | acetic acid | 61 mmol, 3.66 g | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | piperidine | 12 mmol, 1.02 g | N1CCCCC1 | C5H11N
product | methyl 2-(3,4-dimethoxy-benzylidene)acetoacetate | 41.1 g, 52% | COC=1C=C(C=C(C(=O)OC)C(=O)C)C=CC1OC | C14H16O5
